US05378608
To the Fab' (1 mg) prepared in the above process (a) was added the β-Gal-maleimide (3.9 mg) prepared in the process (b) and the mixture was reacted at 30° C. for 30 minutes. The reaction solution was centrifuged and the supernatant was subjected to Sepharose 6B column (φ1.5 cm×50 cm, eluent: 10 mM phosphate buffer, pH 6.5, containing 0.1% BSA) to give a β-Gal-Fab' fragment.

reactant | β-Gal maleimide | 3.9 mg | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO.C1(C=CC(N1)=O)=O
reactant | phosphate | 10 mM | P(=O)([O-])([O-])[O-]
product | β-Gal | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
